US09029399B2
Preparation of 1-(4-cyclopropylpyridin-3-yl)-3-(4-(trifluoromethyl) pyridin-2-yl)imidazolidin-2-one (8A)
Using analogous reagents and reaction conditions as described in Example 1 above, 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one (I-1d: 150 mg, 0.738 mmol) was reacted with 2-bromo-4-(trifluoromethyl)pyridine (200.3 mg, 0.88 mmol), 1,4-dioxane (5 mL), copper iodide (14.03 mg, 0.073 mmol), trans-N,N′-dimethylcyclohexane-1,2-diamine (10.49 mg, 0.073 mmol) and potassium phosphate (469.9 mg, 2.21 mmol) to afford the crude product. Purification by column chromatography on silica gel (1% methanol in CHCl3) afforded 182.5 mg of the product (71% yield).

reactant | 1-(4-cyclopropylpyridin-3-yl)imidazolidin-2-one | 0.738 mmol, 150 mg | C1(CC1)C1=C(C=NC=C1)N1C(NCC1)=O | C11H13N3O
reactant | 2-bromo-4-(trifluoromethyl)pyridine | 0.88 mmol, 200.3 mg | BrC1=NC=CC(=C1)C(F)(F)F | C6H3BrF3N
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 0.073 mmol, 10.49 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | potassium phosphate | 2.21 mmol, 469.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | copper iodide | 0.073 mmol, 14.03 mg | [Cu](I)I
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-cyclopropylpyridin-3-yl)-3-(4-(trifluoromethyl) pyridin-2-yl)imidazolidin-2-one | 182.5 mg, 71% yield | C1(CC1)C1=C(C=NC=C1)N1C(N(CC1)C1=NC=CC(=C1)C(F)(F)F)=O | C17H15F3N4O
